US05239083
4-{2-[3-[1-(2-methylpentyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid (Compound 14)
0.56 g of compound 14 was obtained in a similar manner to those described in the Examples 1 and 2 using 1.56 g of ethyl 4-(2-aminophenoxy)butyrate and 1.0 g of 3-[1-(2-methylpentyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 1.56 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(2-methylpentyl)indol-5-yl]isocrotonic acid | 1.0 g | CC(CN1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C)CCC | C18H23NO2
product | 4-{2-[3-[1-(2-methylpentyl)indol-5-yl]isocrotonoylamino]phenoxy}butyric acid | CC(CN1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C)CCC | C28H34N2O4
